US07482341B2
N-(6-Hydroxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide (0.625 g), triphenylphophine (0.786 g) and 4-trifluoromethyl-phenol (0.486 g) in toluene was treated at RT under an argon atmosphere with diisopropyl azodicarboxylate (0.67 g). The mixture was stirred for 2 h, partitioned between ice water and AcOEt, the layers were separated, the aqueous layer twice extracted with AcOEt. The combined organic layers were washed with water and saturated aqueous NaCl, dried over MgSO4, filtered and evaporated. The residue was purified by flash chromatography (heptane/AcOEt 100 to 85%) to give 2,2-dimethyl-N-[6-(4-trifluoromethyl-phenoxymethyl)-pyridin-2-yl]-propionamide (0.98 g) as a yellow oil. MS (ESI): 353.2 (MH+).

reactant | N-(6-Hydroxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 0.625 g | OCC1=CC=CC(=N1)NC(C(C)(C)C)=O | C11H16N2O2
reactant | triphenylphophine | 0.786 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-trifluoromethyl-phenol | 0.486 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | diisopropyl azodicarboxylate | 0.67 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,2-dimethyl-N-[6-(4-trifluoromethyl-phenoxymethyl)-pyridin-2-yl]-propionamide | 0.98 g | CC(C(=O)NC1=NC(=CC=C1)COC1=CC=C(C=C1)C(F)(F)F)(C)C | C18H19F3N2O2
